US08729105B2
Preparation of 6-(4-chloro-phenyl)-5-(2,2,2-trifluoro-ethoxy)-pyridine-2-carboxylic acid (3-trifluoromethyl-[1,2,4]oxadiazol-5-ylmethyl)-amide
The title compound was synthesized in analogy to Example 1, using 6-(4-chloro-phenyl)-5-(2,2,2-trifluoro-ethoxy)-pyridine-2-carboxylic acid (example AF) and C-(3-trifluoromethyl-[1,2,4]oxadiazol-5-yl)-methylamine hydrochloride (CAS registry No. 944905-93-5; example AK) as starting materials; LC-MS (UV peak area/ESI) 100%, 479.0355 (M−H)−.

reactant | 6-(4-chloro-phenyl)-5-(2,2,2-trifluoro-ethoxy)-pyridine-2-carboxylic acid | ClC1=CC=C(C=C1)C1=C(C=CC(=N1)C(=O)O)OCC(F)(F)F | C14H9ClF3NO3
reactant | C-(3-trifluoromethyl-[1,2,4]oxadiazol-5-yl)-methylamine hydrochloride | Cl.FC(C1=NOC(=N1)CN)(F)F
product | 6-(4-chloro-phenyl)-5-(2,2,2-trifluoro-ethoxy)-pyridine-2-carboxylic acid (3-trifluoromethyl-[1,2,4]oxadiazol-5-ylmethyl)-amide | FC(C1=NOC(=N1)CNC(=O)C1=NC(=C(C=C1)OCC(F)(F)F)C1=CC=C(C=C1)Cl)(F)F | C18H11ClF6N4O3
